Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
depression, suicidal thoughts, delusional thinking
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is an ___ male ___ student
who lives at home with his parents, with past psychiatric
history of anxiety who presents to the ___ ED today with his
father endorsing worsening depression, anxiety, and suicidal
ideation with plan to shoot himself in the head.

Per Dr. ___ in the ED, he reported that he was
sent to the ED from the ___ Anxiety Disorders where he
self-presented earlier today because he felt suicidal and was
having disturbing existential thoughts. He attributes this to
recent stressors of his dog dying in ___ and recently
learning his parents have divorced (they divorced in ___ 
but
he only recently found out, despite living with them). His mood
is very low, he feels "apathetic, has poor motivation, 
difficulty
concentrating, difficulty sleeping, decreased appetite with
decreased PO intake." He reported to Dr. ___ he has had
thoughts of shooting himself, and has a plan to buy a gun off
Craigslist. One of his motivating factors to shoot himself is to
see if he actually has a heart and whether it beats. 

COLLATERAL: 
Referral note from ___ CARD
___ called to our ___ Anxiety and Related Disorders 

___, because he had recurrent suicidal thoughts
(concrete, but no concrete plan yet). He has been in treatment 
at
CARD ___ - for GAD and PD+ agoraphobia and responded
really well at the ___ treatment. today I spend 25 minutes on 
the
phone with him: 
-he thinks he is psychotic and has the sense he is losing 
reality

-questions everything and feels hopeless 
-he would shoot himself, but doesn't have a gun 
-his grandfather was diagnosed with bipolar disorder 
-today he had these thoughts for 1 hour, the trigger was college
psych class where they taught about schizophrenia and that this
is a mental illness that can't be cured, made him really 
hopeless

-he has always been an existential thinker, but recently his dog
died and this tormented his thoughts, he couldn't stop thinking
about life and death and if we are living in a simulation or 
not.
He calls it psychotic episodes, hard to distinguish on the phone
if it is a very severe worry episode or a real psychotic 
episode.
He mentions that during these episodes, nothing is real. He
questions if people exist, for example is parents, than he tests
it out if they exist or not by touching them. He couldn't tell 
if
touching them would reassure him that they exist or not. He also
questions if he exists or not. Do we live in a simulation or 
not?
The only way to test it out is to kill myself. During our
conversation on the phone the anxious thought:'we live in a
simulation', decreased and he mentioned that he only believed
that thought for 50%. He has thoughts of harming himself: wants
to see how the inside of his body looks like, he would cut
himself open to make sure he is alive. He feels paranoid: is the
earth round? was the moon landing real? isn't it the government
that is messing with us?"

Upon presentation to the unit, Mr. ___ reiterates that he 
does
not feel he needs to be on a locked unit. He acknowledges that 
he
can appreciate why a psychiatrist might be concerned for his
safety, however he is adamant he does not need to be here.
However, he then goes on to say that he is continuing to have
ongoing thoughts of shooting himself and that he may well shoot
himself if he had access to a gun. He is very nervous about 
being
separated from his parents; he reports he has a very difficult
time sleeping without them and that he only managed to complete
his first successful sleepover this past ___ after undergoing
much CBT therapy. 

Course in ED: in good behavioral control. No physical/chemical
restraints required. However the patient and his parents were
quite intrusive, repeatedly asking to speak with the physician
and threatening legal action because they do not feel he needs 
to
be psychiatrically hospitalized. 

Medications administered:
-Lorazepam 0.5 mg 

ROS: All other systems reviewed and were negative.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Per Dr. ___ dated ___ and confirmed with pt:
"Diagnoses: anxiety, agoraphobia 
Hospitalizations: denies
Current treaters and treatments: started CBT treatment at ___ 
___
from ___ states it helped him "massively,"
states that he was seeing a talk therapist when his dog died but
hasn't seen her since then at ___
Medications: was on Wellbutrin very briefly per his dad, per
patient states it was Paxil; was only on it for a week; per EMR
review was on Zoloft
Self-injurious behavior: denies
Suicide attempts: denies
Harm to others: denies
Trauma: denies
Access to weapons: father has a gun in the safe at home, he told
his dad not to give him the code; also have some swords at home"

PAST MEDICAL HISTORY:
-denies

 
Social History:
ALLERGIES: NKDA      

SUBSTANCE USE HISTORY:
* Alcohol: denies
* Cocaine, crack, amphetamines: denies
* Opiates: denies
* Benzodiazepines, marijuana, LSD, PCP: denies
* Tobacco: denies
* Caffeine: denies

PERSONAL AND SOCIAL HISTORY:
Per Dr. ___ dated ___ and confirmed with pt:
"Patient was born and raised in ___. States that his 
childhood
was "pretty mixed" states that he felt like a social outcast,
that he was bullied. States that he told him mom in first and
second grade that he wanted to die. States that every year it 
got
a little better socially. Parents are divorced, got divorced in
___, but just told him about it a couple of months 
ago.
States that his mom still lives in the house, though she is
looking for a house. He lives at home with his mom and dad.
States he is not in a romantic relationship."

FORENSIC HISTORY:
* Arrests: denies
* Convictions and jail terms: denies
* Current status (pending charges, probation, parole): denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
Per Dr. ___ dated ___ and confirmed with pt:
"His maternal grandfather had "manic depression" and his
grandmother said that it was "the hereditary type." Father has
OCD, cousins with depression. Paternal grandfather had PTSD 
after
WWII. His maternal grandfather attempted suicide twice."
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS:T:97.9 P:70 BP: 113/66  RR:16   SaO2: 98% (RA)
* General: Well-nourished, well-developed, in no apparent
distress. Appears stated age. Good hygiene, appropriately 
dressed
in gown.
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity, no focal tenderness.
* Lungs: Clear to auscultation; no crackles or wheezes.
* CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal
pulses.
* Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry, no rashes, scars, or lesions.

Neurological:
  *Cranial Nerves-
       I: Not tested.
       II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremors. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
  *Coordination- 
Normal on finger-nose-finger, rapid alternating movements, heel
to shin.
  *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
  *Sensation- intact to light touch, position sense intact.
  *Gait- steady, no truncal ataxia, normal stance and posture.

NEUROPSYCHIATRIC EXAMINATION:
* Appearance: no apparent distress, appears stated age, good
hygiene, appropriately dressed
* Behavior: calm, cooperative, appropriate eye contact, orients
to interviewer, no abnormal posturing, no psychomotor agitation
or retardation
* Orientation: oriented to ___ as well as person, 
place,
and situation
* Mood: "upset"
* Affect: irritable, normal intensity, appropriate to situation,
congruent with mood
* Thought Process: tangential, coherent, goal-oriented, + loose
associations
* Thought Content: +SI, denies HI/AH/VH, +delusions about
existentialism, +paranoid, does not appear to be responding to
internal stimuli
* Impulse Control: poor
* Judgment: poor
* Insight: poor
* Speech: fluent, normal rate, tone, volume, and prosody, no
paraphasic errors

COGNITION:
Per Dr. ___ from earlier today:
 "*Wakefulness/alertness: alert, awake
 *Attention (digit span, MOYB): correctly states MOYB
 *Orientation: AAOx3
 *Memory: ___ registration, ___ recall
 *Fund of knowledge:  knows current president, as well as 
someone
running for president
 Calculations:  7  quarters in 1.75
 Abstraction: correctly describes "don't judge a book by its
cover"
 *Speech: normal rate, volume, prosody
 *Language: fluent ___

 
Pertinent Results:
Data reviewed (including outside records, internal records, 
labs,
studies, and medications):
Labs:
___
BMP: Na 141, K 3.9, Cl 103, bicarb 26, BUN 12, Cr 1
CBC: Hgb 14.5, WBC 7.6, Plts 199 

UA: wnl

Toxicology:
*Serum: Negative for ASA, EtOH, Acetmnphn, ___, Tricycl
*Urine: Negative for ___, Opiates, Cocaine, Amphetamine,
Methadone

 
Brief Hospital Course:
Mr. ___ is an ___ male ___ student
 with history of anxiety (not on medications) who was admitted 
for worsening depression, suicidal ideation, and existential 
delusions with impaired reality testing. On assessment he was 
noted to have features of early psychosis with paranoid 
reality-testing and existential delusions, and pt himself stated 
he believed he had had (in how own words) a few discrete 
"psychotic episodes" where he lost touch with reality, felt 
highly paranoid and could not tell whether anything besides 
himself was real, including his parents.  Made statements such 
as "for all I know, my body could be made up of circuits, I felt 
like I can't trust anything the 'experts' say.  Just because 
doctors ___ I have a heart, I didn't think I could believe 
them, and I felt like I wanted to cut myself open to see my 
heart, so that I could believe it for myself." Collateral from 
outpatient providers and family concerning for severe 
depression, paranoia, delusions and clear decompensation from 
his usual high-functioning baseline.  Likely triggers include 
the recent death of his long-time dog, being recently informed 
of his parents divorce, watching a documentary about mental 
illness which triggered feelings of hopelessness. 
Diagnostically, Mr. ___ current presentation is most 
consistent with psychosis NOS, concern for a first psychotic 
episode triggered by severe/extreme anxiety. As psychosis NOS 
was a leading diagnosis, he was started on a low-dose of 
risperdal 0.5mg BID uptitrated to 1mg BID.  He had exceptional 
response to the medication, essentially with resolution of his 
delusional thoughts and suicidal ideation after he started the 
medication with no adverse effects reported.  Pt himself stated 
he was feeling substantially better and back to his normal 
baseline, and parents agreed.  Family meeting was held by phone, 
and psychoeducation about early psychosis, medications, and 
necessary follow-up were addressed, as well as harm-redcution 
strategies, including removing the ___ Samurai swords from the 
home. Parents also verified that there is no longer a gun in the 
home as well.  They expressed their understanding of impressions 
from hopsitalization and were in agreement with plan for d/c. Pt 
also responded well to group therapy and was felt safe for 
discharge at expiration of his signed 3-day consent on ___.  
On discharge he was set up with aftercare with his psychiatrist 
and therapist, who will make the referral to ___ early psychosis 
program--program would not accept referral directly from 
inpatient unit.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. RISperidone 1 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
depression
suicidal ideation
psychosis NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

DISCHARGE Exam:
 *VS: T-98.3  BP-118/64  HR-64   RR-16    SpO2-100%

NEUROPSYCHIATRIC EXAMINATION:
* Appearance: no apparent distress, appears stated age, in 
pajamas as he is just out-of-bed
* Behavior: calm, cooperative, appropriate eye contact, orients
to interviewer, no abnormal posturing, no psychomotor agitation
or retardation
* Orientation: oriented to date, person, place, and situation
* Mood: 'feeling better'
* Affect: calm, appropriate to situation, congruent with mood
* Thought Process: coherent, goal-oriented
* Thought Content: No active SI, denies HI/AH/VH, +delusions 
thinking about 'life as a simulation'  (are other people robots, 
am I made of circuits? etc), + existential 'angst' (why should I 
be living if we will all die anyway?) +paranoid (references 
logic course 'disproving causality, nothing is true or anything 
can be true)
* Impulse Control: poor
* Judgment: poor
* Insight: poor
* Speech: fluent, normal rate, tone, volume, and prosody, no
paraphasic errors

 
Discharge Instructions:
You were hospitalized at ___ for severe depression, suicidal 
ideation and existential delusions with impaired reality 
testing.  You were admitted for initiation of psychiatric 
medication (risperdal 1mg BID) and therapy and you had very good 
response to treatment.  You did not meet diagnostic criteria for 
schizophrenia or bipolar disorder and we think this is most 
likely a first-time episode of psychosis that was triggered by 
intense anxiety.  At this time we are hopeful that this we be an 
isolated event and we will follow you to make sure that symptoms 
do not change or resurface.  We have arranged follow-up with the 
___ early psychosis program and have arranged outpatient 
therapist/psychiatrist.  We feel you are safe and are now ready 
for discharge.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___